US04203899
12.66 g of ethyl α-methoxyimino-α-[2-(chloroacetamido)-thiazol-4-yl]acetate is added to a solution of 11.74 g of potassium hydroxide in a mixture of 25 ml of water and 500 ml of ethanol. After stirring for 20 minutes at room temperature, the reaction solution is subjected to the distillation of ethanol under reduced pressure. The residue is added to water, and the resultant solution is made acidic with addition of N-hydrochloric acid, followed by separating the insoluble materials by filtration. The procedure yields 10.54 g of α-methoxyimino-α-[2-(chloroacetamido)thiazol-4-yl]acetic acid. Melting point: 182°-183° C.

reactant | ethyl α-methoxyimino-α-[2-(chloroacetamido)-thiazol-4-yl]acetate | 12.66 g | CON=C(C(=O)OCC)C=1N=C(SC1)NC(CCl)=O | C10H12ClN3O4S
reactant | potassium hydroxide | 11.74 g | [OH-].[K+]
solvent | water | 25 ml | O | H2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | α-methoxyimino-α-[2-(chloroacetamido)thiazol-4-yl]acetic acid | 10.54 g | CON=C(C(=O)O)C=1N=C(SC1)NC(CCl)=O | C8H8ClN3O4S
